US04539316
1-Amino-2-[3-(5-dimethylaminomethyl-3-thienyloxy)propylamino]cyclobutene-3,4-dione
An equimolar mixture of 4-[3-(amino)propoxy]-N,N-dimethyl-2-thiophenemethanamine [prepared according to the procedure described in published European Patent Application No. 27,744] and 1-amino-2-methoxycyclobutene-3,4-dione is reacted according to the general procedure of Example 19 to yield the title compound.

reactant | 4-[3-(amino)propoxy]-N,N-dimethyl-2-thiophenemethanamine | NCCCOC=1C=C(SC1)CN(C)C | C10H18N2OS
reactant | 1-amino-2-methoxycyclobutene-3,4-dione | NC1=C(C(C1=O)=O)OC | C5H5NO3
product | 1-Amino-2-[3-(5-dimethylaminomethyl-3-thienyloxy)propylamino]cyclobutene-3,4-dione | NC1=C(C(C1=O)=O)NCCCOC1=CSC(=C1)CN(C)C | C14H19N3O3S
